US04581356
1-Methyl-2-indolinone (34.0 g) and 2-phthalimidoacetyl chloride (37.3 g) was reacted according to a similar manner to that of Example 8-(1). The object compound was purified by column chromatography on silica gel (300 g) using chloroform as an eluent to give 36.41 g of 1-methyl-5-phthalimidoacetyl-2-indolinone.

reactant | 1-Methyl-2-indolinone | 34.0 g | CN1C(CC2=CC=CC=C12)=O | C9H9NO
reactant | 2-phthalimidoacetyl chloride | 37.3 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
product | 1-methyl-5-phthalimidoacetyl-2-indolinone | 36.41 g | CN1C(CC2=CC(=CC=C12)C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)=O | C19H14N2O4
